US04303660
1-Nitro-5-phenyl-5,6-dihydropyrazolo[1,5-c]quinazoline is treated with acetic anhydride as described in Example 27 to give 1-nitro-5-phenyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline. M.p.: 156°-157° C. Yield: 92%.

reactant | 1-Nitro-5-phenyl-5,6-dihydropyrazolo[1,5-c]quinazoline | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C2=CC=CC=C2 | C16H12N4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-nitro-5-phenyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | Yield: 92% | [N+](=O)([O-])C=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)C2=CC=CC=C2 | C18H14N4O3
